US04515793
2-Bromo-2',3',4'-trichloroacetophenone
A mixture of 2',3',4'-trichloroacetophenone (21.4 g, 0.0958 mole), anhydrous sodium acetate (8.0 g), and n-hexane (50 ml) was heated under reflux while treated with a solution of bromine (15.3 g, 0.096 mole) in 25 ml of n-hexane in five portions, decolorizing before each new addition. The mixture was then filtered while hot and the insoluble residue was triturated twice with 50 ml of boiling n-hexane. Enough additional n-hexane was added to the combined filtrates to avoid oiling out of product at 40°. The solution was then seeded and cooled at -10° for 18 hours. Product was collected and air dried to give 17.9 g (62%), mp 44°-46°.

reactant | 2',3',4'-trichloroacetophenone | 0.0958 mole, 21.4 g | ClC1=C(C=CC(=C1Cl)Cl)C(C)=O | C8H5Cl3O
reactant | sodium acetate | 8.0 g | C(C)(=O)[O-].[Na+]
reactant | bromine | 0.096 mole, 15.3 g | BrBr | Br2
solvent | n-hexane | 25 ml | CCCCCC | C6H14
solvent | n-hexane | 50 ml | CCCCCC | C6H14
product | 2-Bromo-2',3',4'-trichloroacetophenone | BrCC(=O)C1=C(C(=C(C=C1)Cl)Cl)Cl | C8H4BrCl3O
